US07723336B2
In a 5 ml microwave vial was added 3-bromo-6-chloro-N-(4-ethoxyphenyl)imidazo[1,2-b]pyridazin-8-amine (0.3 g, 0.8 mmol) from 1b, Pd(PPh3)4 (0.18 g, 0.16 mmol), Zn(CN)2 (0.47 g, 4.0 mmol) and DMF (3 ml). The reaction was heated via microwave for 25 min at 200° C. Upon cooling, the reaction mixture was diluted with ethyl acetate and filtered through a plug of celite. The solvent was removed in vacuo and the resulting material was purified by silica gel chromatography (ethyl acetate/heptane, 25 min gradient: 5-50% ethyl acetate) to give 0.11 g of 6-chloro-8-(4-ethoxyphenylamino)imidazo[1,2-b]pyridazine-3-carbonitrile.

reactant | 3-bromo-6-chloro-N-(4-ethoxyphenyl)imidazo[1,2-b]pyridazin-8-amine | 0.8 mmol, 0.3 g | BrC1=CN=C2N1N=C(C=C2NC2=CC=C(C=C2)OCC)Cl | C14H12BrClN4O
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.16 mmol, 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Zn(CN)2 | 4.0 mmol, 0.47 g | [C-]#N.[C-]#N.[Zn+2]
product | 6-chloro-8-(4-ethoxyphenylamino)imidazo[1,2-b]pyridazine-3-carbonitrile | 0.11 g | ClC=1C=C(C=2N(N1)C(=CN2)C#N)NC2=CC=C(C=C2)OCC | C15H12ClN5O
